US09145429B2
Intermediate 8: 2,5,6-Trichloronicotinamide
A solution of 2,5,6-trichloronicotinonitrile (30 g, 144.92 mmol, 1.00 equiv) in sulfuric acid (98%, 162 mL, 1.00 equiv) was stirred for 1 h at 60° C. in an oil bath. The reaction mixture was cooled and then quenched by the addition of water/ice. The solid was collected by filtration and dried in an oven under reduced pressure. This resulted in 26 g of 2,5,6-trichloronicotinamide as a white solid. LC-MS (ES, m/z): 225 [M+H]+. 1H-NMR (300 MHz, DMSO-d6) δ (ppm) 9.38 (1H, s), 8.12 (1H, s), 7.95 (1H, s).

reactant | 2,5,6-trichloronicotinonitrile | 144.92 mmol, 30 g, 1.00 equiv | ClC1=C(C#N)C=C(C(=N1)Cl)Cl | C6HCl3N2
reactant | sulfuric acid | 162 mL, 1.00 equiv | S(O)(O)(=O)=O | H2O4S
product | 2,5,6-Trichloronicotinamide | ClC1=C(C(=O)N)C=C(C(=N1)Cl)Cl | C6H3Cl3N2O
